US07977358B2
A) N-((trans)-1-Benzyl-4-hydroxy-pyrrolidin-3-yl)-acetamide
To a solution of (trans)-4-azido-1-benzyl-pyrrolidin-3-ol (0.6 g, 3 mmol) (prepared as described in J. Med. Chem 1990, 33, 5, 1344) in MeOH (10 ml) was added Rainey nickel (0.5 g) and the reaction was stirred under one atmosphere of hydrogen for 1 h. The reaction was then filtered through Hyflo and concentrated. The residue was redissolved in CH2Cl2 (5 ml) and added to saturated NaHCO3 (5 ml) and stirred vigorously while acetic anhydride (0.2 ml, 2 mmol) was added. The reaction was stirred for 15 minutes after which time the organic was separated, were dried (Na2SO4) and concentrated. Purification by flash column chromatography (CH2Cl2:MeOH 9:1) afforded the title product (0.4 g, 68%). MS: 235.1 (MH+).

reactant | (trans)-4-azido-1-benzyl-pyrrolidin-3-ol | 3 mmol, 0.6 g | N(=[N+]=[N-])[C@H]1[C@@H](CN(C1)CC1=CC=CC=C1)O | C11H14N4O
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 2 mmol, 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | MeOH | 10 ml | CO | CH4O
catalyst | nickel | 0.5 g | [Ni] | Ni
product | N-((trans)-1-Benzyl-4-hydroxy-pyrrolidin-3-yl)-acetamide | 0.4 g, 68% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)NC(C)=O | C13H18N2O2
